US08202885B2
A mixture of 7.0 g of α-acetoxyacrylonitrile and 3.2 g of 1,3-cyclohexadiene was heated in a closed microwave tube at 90° C. for 24 h. The obtained brown oil was taken up in DCM and evaporated. The crude mixture was washed over a pad of Celite (2 cm) using 300 mL of Hept-EtOAc (9:1) and then concentrated in vacuo. The yellow oil was redissolved in 10 mL DMSO and 3.2 g of KOH, dissolved in 5 mL water, was carefully added. The resulting black mixture was stirred for 2 d at rt, diluted with water and extracted 3 times with Hept. The combined organic phases were washed 3 times with brine, dried over Na2SO4 and concentrated in vacuo to obtain 1.0 g of rac-(1R*,4R*)-bicyclo[2.2.2]oct-5-en-2-one as beige solid.

reactant | α-acetoxyacrylonitrile | 7.0 g | C(C)(=O)OC(C#N)=C | C5H5NO2
reactant | 1,3-cyclohexadiene | 3.2 g | C1=CC=CCC1 | C6H8
solvent | DCM | C(Cl)Cl | CH2Cl2
product | rac-(1R*,4R*)-bicyclo[2.2.2]oct-5-en-2-one | 1.0 g | C12C(CC(C=C1)CC2)=O | C8H10O
